US04258185
To a solution of 5-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)indoline in 100 ml of chloroform was added 5 ml of triethylamine with stirring. To the mixture was added dropwise 3 ml of acetic anhydride. After maintaining at room temperature for one hour, the reaction mixture was concentrated under reduced pressure. The residual crystals were filtered off, washed with water and recrystallized from ethanol to give 4.3 g of 5-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-acetylindoline as white crystals, melting at 258°-261° C.

reactant | 5-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)indoline | CC1CC(NN=C1C=1C=C2CCNC2=CC1)=O | C13H15N3O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(5-methyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-acetylindoline | 4.3 g | CC1CC(NN=C1C=1C=C2CCN(C2=CC1)C(C)=O)=O | C15H17N3O2
